US04698337
A solution of 7-[2-(2-formamidothiazol-4-yl)-2-(2-formyloxyethoxyimino)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 5.0 g.) and conc. hydrochloric acid (3.34 g.) in methanol (35 ml.) and tetrahydrofuran (5 ml.) was treated in a similar manner to that of Example 2-(2) to give 7-[2-(2-aminothiazol-4-yl)-2-(2-hydroxyethoxyimino)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid hydrochloride (syn isomer, 4.73 g.).

reactant | 7-[2-(2-formamidothiazol-4-yl)-2-(2-formyloxyethoxyimino)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 5.0 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC=C)C(=O)O)C1=O)=NOCCOC=O | C21H21N9O8S3
reactant | hydrochloric acid | 3.34 g | Cl | ClH
solvent | methanol | 35 ml | CO | CH4O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 7-[2-(2-aminothiazol-4-yl)-2-(2-hydroxyethoxyimino)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid hydrochloride | 4.73 g | Cl.NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC=C)C(=O)O)C1=O)=NOCCO | InChI=1S/C19H21N9O6S3.ClH/c1-2-3-27-19(23-25-26-27)37-7-9-6-35-16-12(15(31)28(16)13(9)17(32)33)22-14(30)11(24-34-5-4-29)10-8-36-18(20)21-10;/h2,8,12,16,29H,1,3-7H2,(H2,20,21)(H,22,30)(H,32,33);1H/t12?,16-;/m1./s1
